US06800651B2
4-(2,4-Difluorophenoxy)aniline (2.21 g, 10.0 mmol) and pyridine-3-carboxaldehyde (1.12 g, 10.5 mmol) were dissolved in anhydrous methanol (35 ml) and the solution was heated at 55° C. for three hours. The solution was cooled and concentrated in vacuo to a residual oil, which was maintained under a 90 μm Hg vacuum for twenty-four hours. N-(4-(2,4-Difluorophenoxy)phenyl)pyrid-3-ylmethyleneamine was obtained in quantitative yield. 1H NMR(400 MHz): 6.83-6.90(1H,m), 6.93-7.00(3H,m), 7.05-7.13(1H,m), 7.21-7.27(2H,m), 7.40(1H,dd, J=8.1, 4.9), 8.27(1H,dd,J=8.1, 1.7), 8.50(1H,s), 8.69(1H,dd,J=4.9, 1.7), 9.00(1H,d,J=1.7); MS(ESI)m/z 311.1([M+H]+,100); Anal. Calcd. for C18H12F2N2O C,69.67; H,3.90; N,9.03. Found: C,69.28; H,3.99; N,8.91.

reactant | 4-(2,4-Difluorophenoxy)aniline | 10.0 mmol, 2.21 g | FC1=C(OC2=CC=C(N)C=C2)C=CC(=C1)F | C12H9F2NO
reactant | pyridine-3-carboxaldehyde | 10.5 mmol, 1.12 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | methanol | 35 ml | CO | CH4O
product | N-(4-(2,4-Difluorophenoxy)phenyl)pyrid-3-ylmethyleneamine | quantitative yield | FC1=C(OC2=CC=C(C=C2)N=CC=2C=NC=CC2)C=CC(=C1)F | C18H12F2N2O
